US08871934B2
(+)-4-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-butyric acid
To a mixture of ethanol (5.4 ml) and an optically active form (3.55 g) of 4-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-butyric acid ethyl ester was added 2N aqueous sodium hydroxide solution (18 ml), and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was acidified with 2N hydrochloric acid (36 ml). To this mixture was added water (36 ml), and the mixture was extracted 3 times with ethyl acetate (30 ml). The combined organic layer was washed 3 times with water (50 ml) and once with saturated brine (50 ml), dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give the title compound (3.40 g, 100%).

reactant | ethanol | 5.4 ml | C(C)O | C2H6O
reactant | 4-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-butyric acid ethyl ester | 3.55 g | C(C)OC(CCCN1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)C)=O | C24H23F3N2O3
reactant | sodium hydroxide | 2N, 18 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 36 ml | Cl | ClH
solvent | water | 36 ml | O | H2O
product | (+)-4-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-butyric acid | 3.40 g, 100% | OC1(C2=CC=CC=C2C=2C(=CC(=CC12)C)C=1C=NN(C1)CCCC(=O)O)C(F)(F)F | C22H19F3N2O3
